US07435837B2
(±)-{[N-methyl-1-[7-phenyl-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.031 g, 67%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-phenyl-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.060 g, 0.13 mmol) and methylamine (0.12 g, 3.9 mmol). mp 189-190° C.

reactant | (±)-[7-phenyl-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.13 mmol, 0.060 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=CC=CC=C2)C(F)(F)F | C23H19F3O4S
reactant | methylamine | 3.9 mmol, 0.12 g | CN | CH5N
product | N-methyl-1-[7-phenyl-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=C(C=C2C2=CC=CC=C2)C(F)(F)F | C17H16F3NO
